US04065471
2-Chloro-10-[4-(1-pyrrolidinyl)-2-butynyl]phenothiazine
Following the procedure given in Example 1B, 2-chloro-10-propargylphenothiazine (21.7 g.; 0.08 mole) was caused to react with 3.8 g of paraformaldehyde and 7.1 g. (0.1 mole) of pyrrolidine in the presence of a trace of cuprous chloride in dioxane. Recrystallized from ether-hexane, the pure 2-chloro-10-[4-(1-pyrrolidinyl)-2-butynyl]-phenothiazine thus obtained melted at 48.0°-50.0° C.

reactant | 2-chloro-10-propargylphenothiazine | 0.08 mole, 21.7 g | ClC1=CC=2N(C3=CC=CC=C3SC2C=C1)CC#C | C15H10ClNS
reactant | paraformaldehyde | 3.8 g | C=O | CH2O
reactant | pyrrolidine | 0.1 mole | N1CCCC1 | C4H9N
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-Chloro-10-[4-(1-pyrrolidinyl)-2-butynyl]phenothiazine | ClC1=CC=2N(C3=CC=CC=C3SC2C=C1)CC#CCN1CCCC1 | C20H19ClN2S
